US09107415B2
To a solution of 2-(4-bromo-2,6-dimethylphenyl)cyclopent-4-ene-1,3-dione (described in WO 2010/089210) (50 g, 0.18 mol) in acetic acid (2000 ml) at 25-30°C. is added zinc powder (82.3 g, 1.26 mol). The resulting suspension is heated to 90°C. for 2 hours, followed by cooling to room temperature then filtration through a bed of diatomaceous earth. The residue is washed with methanol (100 ml×2) and the solution is concentrated in vacuo. Distilled water is added and the crude product is extracted with ethyl acetate (500 ml×3). Organic fractions are combined then washed with distilled water, brine, then dried over sodium sulfate, filtered and the filtrate concentrated in vacuo to afford 2-(4-bromo-2,6-dimethylphenyl)cyclopentane-1,3-dione. This material is used directly in the next step without further purification.

reactant | 2-(4-bromo-2,6-dimethylphenyl)cyclopent-4-ene-1,3-dione | 0.18 mol, 50 g | BrC1=CC(=C(C(=C1)C)C1C(C=CC1=O)=O)C | C13H11BrO2
solvent | acetic acid | 2000 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 1.26 mol, 82.3 g | [Zn] | Zn
product | 2-(4-bromo-2,6-dimethylphenyl)cyclopentane-1,3-dione | BrC1=CC(=C(C(=C1)C)C1C(CCC1=O)=O)C | C13H13BrO2
